Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with history of oropharyngeal and hypopharyngeal 
cancer s/p cycle 2 of cisplatin on ___, with concurrent 
radiation therapy, presents with fever, vomiting. 
.
Patient was most recently hospitalized on ___ for vomiting. 
At that time there was no evidence of bowel obstruction. His 
nausea was controlled with antiemetics. He was discharged on 
metoclopramide on ___. 
.
On ___ he was started on fentanyl patch 50 mcg/hr for 
odynophagia. Patient continues to complain of ___ pain on 
swallowing and ___ pain when not swallowing. On ___ he had 
an acute episode of vomiting after infusing Ensure via G tube. 
He denies nausea and is taking reglan metoclopramide three times 
a day as prescribed. He denies abdominal pain, diarrhea, or 
constipation--is baseline is one bowel movement every other day. 
He has not used the G tube since. He has been passing gas; his 
last bowel movement was 2 days ago. No fever, chill, dysuria. At 
baseline he has a chronic dry cough from throat irritation. No 
sick contact or recent travel.
.
At radiation clinic on ___, the day of admission, patient was 
orthostatic with upright BP 94/62 and supine BP 74/58, upright 
HR 104 and supine HR 92. His temperature was 100.5 F, weight 159 
lbs. WBC was 1.4, down from 2.2. the day before. After his 
radiation treatment, he received 500 ml D5NS IV and was 
transfered to the ___ ED. 
.
In the ED, T 100.0, HR 90, BP 111/68, RR 18, 100%RA. WBC was 
1.6. CXR was unremarkable. He received acetaminophen, 
ondansetron, and IV metoclopramide. 
.
Review of Systems:  
(+) Per HPI  
(-) Denies night sweats. Denies blurry vision, diplopia, loss of 
vision, photophobia. Denies headache, sinus tenderness, 
rhinorrhea or congestion. Denies chest pain or tightness, 
palpitations, lower extremity edema. Denies shortness of breath, 
or wheezes. Denies nausea, diarrhea, constipation, abdominal 
pain, melena, hematemesis, hematochezia. Denies abnormal 
bleeding, bruising, lymphadenopathy. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.
 
Past Medical History:
# Squamous cell carcinoma of the oropharynx: radiation therapy 
started on ___, first dose of cisplatin on ___.
# HTN.
# GERD.
 
Social History:
___
Family History:
Father died at ___ of melanoma; mother died at ___ of pancreatic 
cancer.
 
Physical Exam:
VS: T 100.8, BP 126/71, HR 96, RR 16, 94%RA
GEN: Elderly man in NAD, awake, alert, very pleasant, reading 
book in bed
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, no JVD  
CV: Reg rate, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present. G tube site 
clean, dry, nonerythematous. 
MSK: normal muscle tone and bulk
EXT: No c/c/e, 2+ ___ bilaterally
SKIN: No rash, warm skin
PSYCH: appropriate, pleasant
 
Pertinent Results:
___ 01:44PM   LACTATE-1.5
___ 01:20PM   GLUCOSE-108* UREA N-16 CREAT-0.9 SODIUM-132* 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-24 ANION GAP-17
___ 01:20PM   WBC-1.6* RBC-3.55* HGB-10.8* HCT-31.3* MCV-88 
MCH-30.5 MCHC-34.6 RDW-13.8
___ 01:20PM   NEUTS-71* BANDS-1 LYMPHS-14* MONOS-13* EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0
___ 01:20PM   PLT SMR-LOW PLT COUNT-101*
.
IMAGING:
___ CXR: FINDINGS: The lungs are clear. There are no pleural 
abnormalities. The cardiac and mediastinal contours are normal. 
IMPRESSION: No acute cardiac or pulmonary process.
.
___ KUB: FINDINGS: There is a nonobstructive bowel gas 
pattern. No free air or pneumatosis is seen. The gastric tube 
remains in place. An irregularly calcified focus of uncertain 
etiology is again visualized in the pelvis. Degenerative changes 
are noted in the bilateral hips.   
IMPRESSION: Non-obstructive bowel gas pattern with no evidence 
of free air.
.
___ CXR compared to ___:  
Lungs are fully expanded and clear. There is no focal 
abnormality or other evidence of pneumonia. There is no pleural 
effusion or indication of central adenopathy. Heart size is 
normal. 
.
___ UPPER EXTREMITY VENOUS ULTRASOUND: Gray-scale and 
color Doppler 
sonographic images were obtained that demonstrates patency of 
the left 
internal jugular, subclavian and axillary veins. There is 
wall-to-wall flow 
demonstrated in both brachial veins. An occlusive thrombus is 
seen in the 
left basilic and left cephalic vein. 
  
IMPRESSION: Thrombus within the left basilic and left cephalic 
veins. PICC 
seen within the left basilic. 

 
Brief Hospital Course:
___ man with history of oropharyngeal and hypopharyngeal 
cancer s/p cycle 2 of cisplatin on ___, with concurrent 
radiation therapy, presents with fever, vomiting, weight loss, 
worsening leukopenia. The patient was recently discharged from a 
hospitalization for nausea and vomiting felt to be secondary to 
treatment related gastroparesis that improved with addition of 
metoclopromide. He has treatment related odynophagia that is 
managed with percocet per g tube.
.
# Fever and neutropenia: The patient was not yet neutropenic on 
admission and antibiotics were initially held. Admission CXR, 
KUB, and cultures were all negative for an infectious source. 
The patient remained febrile however, became absolutely 
neutropenic, and was started on Cefepime. On ___, the patient 
continued to have fevers and became mildly hypotensive with SBP 
in the low 90's, but appeared well. Repeat CXR and blood 
cultures were obtained and a fluid bolus was given. Vancomycin 
was added at this time based on his treatment-related 
mucositis.Pt remained with febile neutropni fo rmore than 3 days 
adn flagyl was added for anaerob coverage in teh setting of 
mucositis. Fluconazole was increased to a dose of 400 mg 
___  defervesed on ___ and neutropenia resolved on 
___. Antibiotics were discontinued 24 hrs after resolution 
of neutropenia and fever and pt remained afebrile.All blood 
cutures and urine cutures were negative.
# Vomiting: The patient had been taking Ensure plus as a bolus 
per G tube as an outpatient, but vomited a portion the day of 
admission. Admission KUB was negative for obstruction and he was 
treated with antiemetics and continued on metoclopromide for 
gastroparesis. After discussion with the nutrition service, he 
was restarted on ___ dilution, low volume, continuous tube feeds 
with the aim of increasing his hourly volume as tolerated. 
Although he clearly tolerated the dilute continuous feeds better 
than the bolus, tube feeds were intermittantly held when he felt 
nauseated and obstructed. Prioir to discharge bolus feedings 
were resumed an dpt tolerated them well.
# Oropharyngeal cancer with treatment related 
odynophagia/mucositis: The patient was in the midst of getting 
concurrent cisplatin with radiation. He continued his radiation 
as scheduled during his admission. The patient had been managing 
his pain with a fentenyl patch and percocet. Fentanyl patch dose 
was increased to 75 mcg/hr and for breakthrough pain patinet was 
started on dialudid IV , although he required at most 2 doses 
/24 hrs. Pt was also started on the oncologic mix prn and 
fluconazole for the mucositis/thrush.Pt completed his radiation 
treatment during his hospital stay . He did not get his last 
dose of cisplatin as he was still neutropenic at the time.
#Superficial Venous thrombi: Pt had a left picc line place 
becauase of poor peripheral venous access. Pt developed redness 
and swelling o fleft arm and left upper extremity u/s showed a 
clot in the basilic and cephalic veins. The picc line was 
removed and pt was started on therapeutic lovenox.During 
hospital saty erythema and swelling improved significantly. Pt 
to complete a 2 week course of lovenox.  

# FEN: TF via G tube, IVF
.
# Ppx: Heparin SQ, swichted to therapeutic lovenox as above..
# Code: full

 
Medications on Admission:
fentanyl patch 50 mcg/hr q72h
fluconazole 40 mg/ml 2.5 ml suspension ___
lorazepam 0.5-1 mg q4-6h prn nausea
metoclorapmide 10 mg tid
ondansetron prn
oxycodone-acetaminophen ___ ml ___ ml solution q6h prn pain
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: ___ Tablets ___ Q4H (every 4 
hours) as needed for nausea/anxiety.  
2. metoclopramide 10 mg Tablet Sig: One (1) Tablet ___ TID (3 
times a day).  
3. docusate sodium 50 mg/5 mL Liquid Sig: Ten (10) ml ___ BID (2 
times a day) as needed for constipation.  
4. senna 8.6 mg Tablet Sig: One (1) Tablet ___ BID (2 times a 
day) as needed for constipation.  
5. guaifenesin 100 mg/5 mL Syrup Sig: Ten (10) ML ___ BID (2 
times a day) as needed for thick oral secretions for 5 days: 
over the counter.  
6. fentanyl 75 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).
Disp:*10 Patch 72 hr(s)* Refills:*1*
7. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.
Disp:*30 Tablet,Rapid Dissolve, ___ Refills:*0*
8. fluconazole 40 mg/mL Suspension for Reconstitution Sig: Ten 
(10) ml ___ once a day for 8 days.
Disp:*80 ml* Refills:*0*
9. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve ___ Q8H (every 8 hours) as needed for nausea for 
10 days.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
10. Lovenox ___ mg/mL Syringe Sig: One (1)  Subcutaneous once a 
day for 10 days: additional doses per Dr ___.
Disp:*10 syringes* Refills:*0*
11. Roxicet ___ mg/5 mL Solution Sig: ___ ml ___ every six (6) 
hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever and neutropenia
odynophagia
gastroparesis
nausea
vomiting
oropharnygeal and hypopharyngeal cancer
Superficial venous thrombosis in left basilic and cephalic 
veins.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with sore throat, nausea, vomiting, fever, and 
a low white count with eventual neutropenia. You were treated 
with IV antibiotics and anti-nausea medicine. Your bolus g tube 
feeds were initially diluted and given at a lower volume on a 
continuous pump but subsequently held and eventually you were 
restarted on the bolus feeds . Xrays and cultures did not show a 
source for your fevers and neutropenia and fever resolved and 
antibiotics were discontinued.Your pain medication was changed 
to a fentanyl patch.You were continued on your ___ radiation 
treatments which you completed.You did develop a clot in a 
superficial vein in your left arm after a picc line was placed, 
the picc was removed and you were started on lovnox shots which 
you will need to continue x 10 days and follow with with Dr 
___ for additional treatment.
New meds:
Fentanyl patch 75 mcg /hr
Oncologic mouth wash qhrs as needed
Fluconazole 400 mg x 8 days
Zofran ODT
Lansoprazole 20 mg ___
 
Followup Instructions:
___